US08748429B2
tert-butyl (5S,6S,9R)-9-amino-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyrazin-5-ylcarbamate
In a 100 mL round-bottomed flask was dissolved tert-butyl (5S,6S,9R)-6-(2,3-difluorophenyl)-9-(1,3-dioxoisoindolin-2-yl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyrazin-5-ylcarbamate (46.8 mg, 0.090 mmol) in methanol (1 mL) to give a white suspension. Hydrazine hydrate (0.1 mL, 3.2 mmol) was added, and the mixture was stirred in a preheated oil bath at 70° C. under nitrogen for 2 h. LCMS indicated the desired product. Methanol was removed in vacuo and the residue was partitioned between 0.5N sodium hydroxide and ethyl acetate. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine, dried, and concentrated. Flash column chromatography upto 10% methanol (with 2M ammonia) in methylene chloride afforded the desired product as a colorless oil (26.9 mg, 77% for two steps): 1H NMR (400 MHz, CDCl3) δ 8.48 (d, J=2.3 Hz, 1H), 8.42 (d, J=2.4 Hz, 1H), 7.25 (t, J=6.4 Hz, 1H), 7.12-6.98 (m, 2H), 6.24 (d, J=8.6 Hz, 1H), 5.25 (t, J=9.5 Hz, 1H), 4.50 (d, J=10.2 Hz, 1H), 3.03 (t, J=10.7 Hz, 1H), 2.60-2.43 (m, 1H), 2.39-2.07 (m, 4H), 1.61-1.40 (m, 1H), 1.23 (s, 9H); 19F NMR (376 MHz, CDCl3) δ −138.95-−139.53 (m), −142.46 (d, J=18.8 Hz).

reactant | tert-butyl (5S,6S,9R)-6-(2,3-difluorophenyl)-9-(1,3-dioxoisoindolin-2-yl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyrazin-5-ylcarbamate | 0.090 mmol, 46.8 mg | FC1=C(C=CC=C1F)[C@H]1[C@@H](C=2C(=NC=CN2)[C@@H](CC1)N1C(C2=CC=CC=C2C1=O)=O)NC(OC(C)(C)C)=O | C28H26F2N4O4
reactant | Hydrazine hydrate | 3.2 mmol, 0.1 mL | O.NN
solvent | methanol | 1 mL | CO | CH4O
product | tert-butyl (5S,6S,9R)-9-amino-6-(2,3-difluorophenyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyrazin-5-ylcarbamate | N[C@@H]1CC[C@H]([C@@H](C=2C1=NC=CN2)NC(OC(C)(C)C)=O)C2=C(C(=CC=C2)F)F | C20H24F2N4O2
